US06706663B2
Preparation of 2-Chloro-5-nitrophenyl 3-chloro-2-thienyl ketone
To a mixture of aluminum chloride (1.33 g, 0.0102 mol) and methylene chloride is added 3-chlorothiophene (1.21 g, 0.0102 mol) dropwise. The resultant mixture is stirred 30 minutes and treated with a solution of 2-chloro-5-nitrobenzoyl chloride (2.20 g, 0.0100 mol) in methylene chloride. The resultant mixture is stirred overnight at room temperature, poured into ice, acidified with concentrated hydrochloric acid and extracted twice with methylene chloride. The combined organic layers are washed with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to a brown oil. Trituration with ether affords the title compound as a brown solid (1.33 g, 44.0%, mp 114-116° C.) which is identified by NMR spectral analysis.

reactant | aluminum chloride | 0.0102 mol, 1.33 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-chlorothiophene | 0.0102 mol, 1.21 g | ClC1=CSC=C1 | C4H3ClS
reactant | 2-chloro-5-nitrobenzoyl chloride | 0.0100 mol, 2.20 g | ClC1=C(C(=O)Cl)C=C(C=C1)[N+](=O)[O-] | C7H3Cl2NO3
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-Chloro-5-nitrophenyl 3-chloro-2-thienyl ketone | 1.33 g, 44.0% | ClC1=C(SC=C1)C(=O)C1=C(C=CC(=C1)[N+](=O)[O-])Cl | C11H5Cl2NO3S
